US09447091B2
a) Ethyl 2-(4-ethylpiperazin-1-yl)acetate
To a solution of 1-ethylpiperazine (1 g, 8.771 mmol, 1.0 eq) in DMF were added K2CO3 (3 g, 21.927 mmol, 2.5 eq.) and ethyl 2-bromoacetate (2.19 g, 13.156 mmol, 1.5 eq.). The mixture was stirred at RT for 16 h. The mixture was quenched and extracted as in Intermediate Example 5(a). The solvent was distilled off to afford the product in 76.4% yield (1.3 g).

reactant | 1-ethylpiperazine | 8.771 mmol, 1 g, 1.0 eq | C(C)N1CCNCC1 | C6H14N2
reactant | K2CO3 | 21.927 mmol, 3 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-bromoacetate | 13.156 mmol, 2.19 g, 1.5 eq. | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 2-(4-ethylpiperazin-1-yl)acetate | 76.4% yield | C(C)N1CCN(CC1)CC(=O)OCC | C10H20N2O2
